US08003692B2
3-Furan-3-yl-cyclohex-2-enone.
Synthesized from 3-bromocyclohex-2-enone and furan-3-boronic acid according to the general procedure described for the Suzuki coupling. Purification by silica gel column chromatography using gradient elution (0 to 30% ether/hexanes) yielded the product (13 mg, 16%) as a white solid. 1H NMR (300 MHz, CDCl3): δ 7.70 (s, 1H), 7.44 (t, J=1.9 Hz, 1H), 6.59 (t, J=1.1 Hz, 1H), 6.24 (s, 1H), 2.63 (td, J=5.7, 1.1 Hz, 2H), 2.46 (t, J=6.3 Hz, 2H), 2.11 (quintet, J=6.3 Hz, 2H). 13C (75 MHz, CDCl3): 200.1, 152.0, 144.6, 142.4, 126.0, 123.3, 107.6, 37.6, 27.5, 22.7. HRMS (LCT Electrospray): mass calcd for (C10H10O2+Na) m/z 185.0578; measured [M+Na]+: m/z 185.0574.

reactant | 3-bromocyclohex-2-enone | BrC1=CC(CCC1)=O | C6H7BrO
reactant | furan-3-boronic acid | O1C=C(C=C1)B(O)O | C4H5BO3
product | 3-Furan-3-yl-cyclohex-2-enone | 13 mg, 16% | O1C=C(C=C1)C1=CC(CCC1)=O | C10H10O2
